datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[O:1])([H:2])[H:3].[C:4]([C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([O:8][O:9])([H:17])[H:18])[H:13])([H:10])([H:11])[H:12]>>[C:0](=[O:1])[H:3].[H:2][O:9][O:8][C:7]([C:5]([C:4]([H:10])([H:11])[H:12])([C:6]([H:14])([H:15])[H:16])[H:13])([H:17])[H:18],37.656
[O:0]=[C:1]1[C:2]([H:6])=[C:3]([H:7])[C:4]([H:8])[C:5]1([H:9])[H:10].[O:11][O:12]>>[H:9][O:11][O:12].[O:0]=[C:1]1[C:2]([H:6])=[C:3]([H:7])[C:4]([H:8])=[C:5]1[H:10],0.0
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]([C:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C:7]1([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:11])[H:10],15.5645
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14](=[C:15]([H:20])[H:21])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:13]([C:12]([H:16])[H:17])([C:14](=[C:15]([H:20])[H:21])[H:19])[H:18])[H:5],40.3338
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[S:9][H:16])([H:10])([H:11])[H:12]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:7]([C:6]([H:10])([H:11])[H:12])([C:8]([H:13])([H:14])[H:15])[S:9][H:16],30.1248
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]([S:6][H:11])[H:10])([H:7])([H:8])[H:9]>>[C:0](=[S:1])[H:3].[H:2][C:5]([C:4]([H:7])([H:8])[H:9])([S:6][H:11])[H:10],93.4287
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])[H:9])[H:7])[H:6])[H:5].[H:10]>>[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5],0.0
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])=[C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]([C:5]([H:15])([H:16])[H:17])[C:6]1([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23],106.441
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([H:25])[H:26])[H:24])=[C:10]([C:11]([H:28])([H:29])[H:30])[H:27])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([C:8](=[C:9]([H:25])[H:26])[H:24])[C:10]1([C:11]([H:28])([H:29])[H:30])[H:27])[H:14])([H:12])[H:13],58.9526
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9]([C:10]([c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])[H:20])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2](=[C:3][C:4]([H:6])([H:7])[H:8])[C:10]([C:9]([H:17])([H:18])[H:19])([c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])[H:20])[H:5],50.3335
[C:3](=[O:4])[H:5].[O:0]([H:1])[H:2]>>[H:1][C:3](=[O:4])[H:5].[O:0][H:2],120.792
[O:0]=[C:1]([O:2][H:4])[S:3][H:5]>>[O:0]=[C:1]=[O:2].[S:3]([H:4])[H:5],159.74512
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([O:14][O:15])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:12])[H:8])([H:6])[H:7].[H:5][O:15][O:14][C:13]([H:16])([H:17])[H:18],68.99416
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9]([C:10]([H:17])([H:18])[H:19])([C:11]([O:12][H:22])([H:20])[H:21])[H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:20])([H:3])[H:4].[C:8]([C:9]([C:10]([H:17])([H:18])[H:19])([C:11]([O:12][H:22])[H:21])[H:16])([H:13])([H:14])[H:15],5.48104
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:22])([H:23])[H:24])[C:17](=[C:18]([H:26])[H:27])[H:25])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[C:15]([C:14](=[C:13]([H:19])[H:20])[H:21])([C:16]([H:22])([H:23])[H:24])[C:17](=[C:18]([H:26])[H:27])[H:25])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6],53.3878
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([C:6]([H:15])([H:16])[H:17])=[C:7]([C:8]([H:19])([H:20])[H:21])[H:18])([H:13])[H:14])[H:9]>>[C:0](#[C:1][C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[C:5]([C:6]([H:15])([H:16])[H:17])[C:7]1([C:8]([H:19])([H:20])[H:21])[H:18])[H:9],154.097
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[S:10]=[C:11]([C:12]([S:13][H:17])([H:15])[H:16])[H:14]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[H:15])([H:3])([H:4])[H:5].[S:10]=[C:11]([C:12]([S:13][H:17])[H:16])[H:14],-1.6736
[C:0]([C:1]([C:2]([C:3](=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[H:14])[H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]1([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[H:14])[H:13],57.7392
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[S:10]([H:11])[H:12]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[H:11])([H:3])([H:4])[H:5].[S:10][H:12],-5.8576
